US05545644
4-Methylaminosulfonylmethyl-N-trifluoroacetylaniline
To a chilled solution of pyridine (4 mL) in methylene chloride (100 mL) was added trifluoroacetic anhydride (7.0 m L) follow e d by 4-methylaminosulfonylmethylaniline (9.55 g). After 30 minutes at 0° C., the reaction mixture was filtered to give the title compound (11.6 g) as a light yellow powder. TLC (EtOAc/hexane 2:1) Rf=0.36.

reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-methylaminosulfonylmethylaniline | 9.55 g | CNS(=O)(=O)CC1=CC=C(N)C=C1 | C8H12N2O2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Methylaminosulfonylmethyl-N-trifluoroacetylaniline | 11.6 g | CNS(=O)(=O)CC1=CC=C(NC(C(F)(F)F)=O)C=C1 | C10H11F3N2O3S
